US05863728
japonicum cells (R110d) were maintained on YEG (yeast-extract-gluconate) agar plates for 3 days as described previously (Loh, J. T., et al., Glycoconjugate J., 11:363-370 (1994)). B. japonicum (R110d) was originally obtained from Dr. Barry Chelm of Michigan State University. This bacterial strain was maintained on agar plates containing yeast extract-sodium gluconate medium (YEG) and 50 mM lactose. YEG contained (per liter): 1.28 g K2PO4, 0.2 g Mg2SO4 ·7H2O, 7.35 mg CaCl2 ·2H2O, 28 mg sequestrene, 5.0 g gluconic acid, and 1.0 g yeast extract, and was supplemented with trace elements: 2.5 mg Na2EDTA, 4.39 mg ZnSO4 ·7H2O, 0.77 mg MnSO4 ·H2O, 0.15 mg CuSO4 ·5H2O, 2.49 mg Na2MoO4 ·2H2O, 0.23 mg CoCl2 ·6H2O, 0.46 mg Na2B4 07 ·10H2 0, 0.38 mg Na3VO4, and 0.1 mg NaSeO3, pH 6.0. The bacteria (3-day-old) were transferred from the agar plate to 50 ml YEG in a 125 ml Erlenmeyer flask and cultured for one day. The bacterial suspension was then inoculated into 2 liters of YEG and cultured for 2 days on a gyratory shaker (120 rpm) at 30° C. Aliquots of this culture (300 ml) were then inoculated into six Fernbach flasks, each containing 1.5 liters of YEG. The bacteria were further cultured for about 30 hours until a value of 1.7-2.0 was obtained for the absorbance at 620 nm (A620). The bacterial cells were then inoculated into 50 ml YEG and cultured in a gyratory shaker for 2 days. This culture was then transferred to 2 liter of YEG and grown for 2 more days. Aliquots of 300 ml of the 2 liter bacterial cultures were then transferred to 1.5 liter YEG to obtain the final liquid culture step. On the initiation of the final liquid culture, saccharides and flavones were added to a final concentration of 1 mM, and 2 μM, respectively and the bacteria cells were cultured for 10 hours prior to analysis. Lactose (Lac) was obtained from Kodak (Rochester, New York); mannose, genistein, apigenin, naringenin from Sigma (St. Louis, MO). Luteolin was kindly provided by Dr. Franz De Bruijn (Michigan State University).

reactant | Lactose | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
reactant | mannose | O=C[C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | genistein | C1=CC(=CC=C1C2=COC=3C=C(C=C(C3C2=O)O)O)O | C15H10O5
reactant | apigenin | C1=CC(=CC=C1C2=CC(=O)C=3C(=CC(=CC3O2)O)O)O | C15H10O5
reactant | naringenin | C1=CC(=CC=C1[C@@H]2CC(=O)C=3C(=CC(=CC3O2)O)O)O | C15H12O5
product | Luteolin | C1=CC(=C(C=C1C2=CC(=O)C=3C(=CC(=CC3O2)O)O)O)O | C15H10O6
